US05521147
To a solution of 1.97 g (0.010 mole) of 7-amino-4-chloro-2,3-dihydro-2,2-dimethylbenzofuran in 60 mL of toluene was added slowly 1.2 mL (0.010 mole) of trichloromethyl chloroformate. This mixture was stirred at ambient temperature for one hour and then was heated at reflux for approximately 16 hours. At the conclusion of this period the solvent was evaporated from the reaction mixture under reduced pressure, leaving 2.23 g of 4-chloro-2,3-dihydro-2,2-dimethylbenzofuran-7-yl isocyanate as an oil.

reactant | 7-amino-4-chloro-2,3-dihydro-2,2-dimethylbenzofuran | 0.010 mole, 1.97 g | NC1=CC=C(C=2CC(OC21)(C)C)Cl | C10H12ClNO
reactant | trichloromethyl chloroformate | 0.010 mole, 1.2 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2,3-dihydro-2,2-dimethylbenzofuran-7-yl isocyanate | 2.23 g | ClC1=CC=C(C2=C1CC(O2)(C)C)N=C=O | C11H10ClNO2
